US06187952B1
The 3-chloro-4-fluoroacetophenone is then reacted with an aqueous solution of sodium hypobromite, the aqeuous phase is treated with sodium hydrogensulfite and acidified with hydrochloric acid, and the precipitated product is recrystallized from benzene. 3-Chloro-4-fluorobenzoic acid obtained in a yield of 74%.

reactant | 3-chloro-4-fluoroacetophenone | CC(=O)C1=CC(=C(C=C1)F)Cl | C8H6ClFO
reactant | sodium hypobromite | Br[O-].[Na+]
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 3-Chloro-4-fluorobenzoic acid | yield of 74% | ClC=1C=C(C(=O)O)C=CC1F | C7H4ClFO2
